US07262185B2
A mixture of potassium thiocyanate (25.9 g), dihydroxyacetone dimer (16.0 g), and isobutylamine hydrochloride (25.0 g) was added by portions to a mixed solution of acetic acid (19.2 ml) and 1-butanol (128 ml). The mixture was stirred for 1 day at room temperature, water (26 ml) was added to the mixture, and the mixture was stirred for 30 minutes. The precipitated solid was collected by filtration, and further washed with water (40 ml) twice and diisopropyl ether once. The obtained solid was dried under reduced pressure, to give 5-hydroxymethyl-1-isobutyl-2-mercaptoimidazole (15.1 g) as colorless crystals.

reactant | potassium thiocyanate | 25.9 g | [S-]C#N.[K+]
reactant | dihydroxyacetone dimer | 16.0 g | C1C(OCC(O1)(CO)O)(CO)O | C6H12O6
reactant | isobutylamine hydrochloride | 25.0 g | Cl.C(C(C)C)N
reactant | acetic acid | 19.2 ml | C(C)(=O)O | C2H4O2
solvent | water | 26 ml | O | H2O
solvent | 1-butanol | 128 ml | C(CCC)O | C4H10O
product | 5-hydroxymethyl-1-isobutyl-2-mercaptoimidazole | 15.1 g | OCC1=CN=C(N1CC(C)C)S | C8H14N2OS
